US04864021
A 10 g quantity of 2'-deoxy-5'-O-trityl-5-fluorouridine was dissolved in 100 ml of dioxane. To the solution were added 2.9 ml of benzyl chloride, 6.9 g of particles of potassium hydroxide and 3.56 g of sodium iodide. The mixture was stirred at 40° C. for 4 hours, and 2.9 ml of benzyl chloride and 1.15 g of potassium hydroxide were added and stirred for 1 hour. Thereto was added water to dissolve the potassium hydroxide in water. The solution was adjusted to a pH of about 3 with acetic acid and extracted with ethylene dichloride. The extract was washed with water and the ethylene dichloride layer was dried over anhydrous sodium sulfate. The sodium sulfate was separated by filtration and the solvent was distilled off, giving 8 g of 2'-deoxy-3'-O-benzyl-5'-O-trityl-5-fluorouridine as an oil.

reactant | 2'-deoxy-5'-O-trityl-5-fluorouridine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O | C28H25FN2O5
reactant | benzyl chloride | 2.9 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium iodide | 3.56 g | [I-].[Na+]
reactant | benzyl chloride | 2.9 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium hydroxide | 1.15 g | [OH-].[K+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2'-deoxy-3'-O-benzyl-5'-O-trityl-5-fluorouridine | 8 g, yield of 70.6% | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C(=O)NC(=O)C(=C1)F | C35H31FN2O5
